US07622469B2
3,6-Dihydro-6,6-dimethyl-4-heptylamino-2-(4′-methylbenzylamino)-1,3,5-triazine acetate
140 ml of methanol, 60 ml of acetone and 0.7 ml of concentrated hydrochloric acid were added to 10.0 g (26.6 mmol) of N1-4-methylbenzyl-N5-heptyl-biguanide dihydrochloride. The mixture was refluxed for 24 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in 100 ml of ethanol, and to the solution were added 60 ml of water and 10.8 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 1 hour, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with 10% aqueous sodium acetate solution, and washed with water. The solvent was distilled off under reduced pressure, and the residue was recrystallized from methyl ethyl ketone to obtain 7.2 g of colorless crystals having a melting point of 102 to 104° C.

reactant | methanol | 140 ml | CO | CH4O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
reactant | N1-4-methylbenzyl-N5-heptyl-biguanide dihydrochloride | 26.6 mmol, 10.0 g | Cl.Cl.CC1=CC=C(CNC(=N)NC(=N)NCCCCCCC)C=C1
reactant | acetone | 60 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-heptylamino-2-(4′-methylbenzylamino)-1,3,5-triazine acetate | 7.2 g | C(C)(=O)O.CC1(N=C(NC(=N1)NCC1=CC=C(C=C1)C)NCCCCCCC)C | InChI=1S/C20H33N5.C2H4O2/c1-5-6-7-8-9-14-21-18-23-19(25-20(3,4)24-18)22-15-17-12-10-16(2)11-13-17;1-2(3)4/h10-13H,5-9,14-15H2,1-4H3,(H3,21,22,23,24,25);1H3,(H,3,4)
